US05180829
2,6-Diphenylpiperidin-4-yl Laurate
To a -70° C. solution of 2.50 g (9.9 mmol) of 2,6-diphenyl-4-hydroxypiperidine in 80 ml of dry tetrahydrofuran (THF), 4.2 mL (10.5 mmol) of n-butyllithium (2.5M in hexanes) is added dropwise. The mixture is warmed to -20° C. and stirred for 30 minutes. The solution is then cooled again to -70° C. and a solution of 2.2 g (9.9 mmol) of lauroyl chloride in 20 mL of dry THF is then added dropwise. The mixture is warmed to room temperature and stirred for 18 hours. The mixture is added to 250 mL of brine and then extracted with 2×200 mL of ether. The combined organic layers are dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is purified by liquid chromatography (LC) (silica gel, ethyl acetate/hexane) to give 3.2 g (74%) of the title compound as a white solid: mp 40°-42° C.

reactant | 2,6-diphenyl-4-hydroxypiperidine | 9.9 mmol, 2.50 g | C1(=CC=CC=C1)C1NC(CC(C1)O)C1=CC=CC=C1 | C17H19NO
reactant | n-butyllithium | 10.5 mmol, 2.5M, 4.2 mL | C(CCC)[Li]
reactant | lauroyl chloride | 9.9 mmol, 2.2 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | THF | 20 mL | O1CCCC1 | C4H8O
solvent | brine | 250 mL | [Cl-].[Na+].O
product | 2,6-Diphenylpiperidin-4-yl Laurate | 3.2 g, 74% | C(CCCCCCCCCCC)(=O)OC1CC(NC(C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H41NO2
